US07799804B2
4,4,4-Trifluorobutane-1-sulfonic acid 4-[2-(2,4-dichlorophenyl)-5-methyl-4-(piperidin-1-ylcarbamoyl)imidazol-1-yl]-phenyl ester
2-(2,4-Dichlorophenyl)-1-(4-hydroxyphenyl)-5-methyl-1H-imidazole-4-carboxylic piperidin-1-ylamide, from Ex 2, Step 1 (0.49 g, 1.20 mmol) was dissolved in dichloromethane (20 ml), cooled to 0° C. and triethylamine (0.67 ml, 4.8 mmol) added followed by 4,4,4-trifluorobutane-1-sulfonyl chloride (prepared as described in WO00/010968) (0.38 g, 1.80 mmol). The reaction mixture was stirred at room temperature for 3 hrs. TLC showed remaining starting material and another portion of triethylamine and 4,4,4-trifluorobutane-1-sulfonyl chloride was added and the reaction mixture stirred overnight. Water was added, the product extracted with dichloromethane, dried (Na2SO4), filtered and concentrated. Flash chromatography (hexane:EtOAc 1:3-EtOAc) followed by recrystallization (hexane:EtOAc) afforded 0.45 g (61%) of the title compound as a colorless solid.

reactant | 2-(2,4-Dichlorophenyl)-1-(4-hydroxyphenyl)-5-methyl-1H-imidazole-4-carboxylic piperidin-1-ylamide | N1(CCCCC1)NC(=O)C=1N=C(N(C1C)C1=CC=C(C=C1)O)C1=C(C=C(C=C1)Cl)Cl | C22H22Cl2N4O2
reactant | triethylamine | 4.8 mmol, 0.67 ml | C(C)N(CC)CC | C6H15N
reactant | 4,4,4-trifluorobutane-1-sulfonyl chloride | FC(CCCS(=O)(=O)Cl)(F)F | C4H6ClF3O2S
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4,4,4-Trifluorobutane-1-sulfonic acid 4-[2-(2,4-dichlorophenyl)-5-methyl-4-(piperidin-1-ylcarbamoyl)imidazol-1-yl]-phenyl ester | 0.45 g, 61% | ClC1=C(C=CC(=C1)Cl)C=1N(C(=C(N1)C(NN1CCCCC1)=O)C)C1=CC=C(C=C1)OS(=O)(=O)CCCC(F)(F)F | C26H27Cl2F3N4O4S
